US08877968B2
0.8 g (3.3 mmol) of tert-butyl 4-cyclopropylaminopiperidine-1-carboxylate, 0.48 mL (3.3 mmol) of triethylamine and 0.56 mL (3.3 mmol) of propionyl chloride are dissolved in 50 mL of THF. The reaction medium is stirred for 2 hours at room temperature. The reaction is stopped by adding water and the organic products are then extracted with dichloromethane. The organic phase is dried and then evaporated. The crude product obtained is chromatographed on silica gel (eluent: 6/4 heptane/ethyl acetate). 0.87 g of tert-butyl 4-(cyclopropylpropionylamino)piperidine-1-carboxylate in the form of a colourless oil is obtained in a yield of 89%.

reactant | tert-butyl 4-cyclopropylaminopiperidine-1-carboxylate | 3.3 mmol, 0.8 g | C1(CC1)NC1CCN(CC1)C(=O)OC(C)(C)C | C13H24N2O2
reactant | triethylamine | 3.3 mmol, 0.48 mL | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 3.3 mmol, 0.56 mL | C(CC)(=O)Cl | C3H5ClO
reactant | water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(cyclopropylpropionylamino)piperidine-1-carboxylate | 0.87 g, yield of 89% | C1(CC1)CCC(=O)NC1CCN(CC1)C(=O)OC(C)(C)C | C16H28N2O3
